US08486962B2
A solution of 1-(4-nitro-phenyl)-pyrrolidine-2-carboxylic acid methyl ester (0.55 g, 2.2 mmol) in methanol (15 ml) was hydrogenated over 10% Pd—C (50 mg) at 30 psi until no further gas uptake was observed. The reaction mixture was then filtered over celite and the filtrate evaporated to yield 1-(4-amino-phenyl)-pyrrolidine-2-carboxylic acid methyl ester (0.35 g, 72%).

reactant | 1-(4-nitro-phenyl)-pyrrolidine-2-carboxylic acid methyl ester | 2.2 mmol, 0.55 g | COC(=O)C1N(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O4
solvent | methanol | 15 ml | CO | CH4O
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | 1-(4-amino-phenyl)-pyrrolidine-2-carboxylic acid methyl ester | 0.35 g, 72% | COC(=O)C1N(CCC1)C1=CC=C(C=C1)N | C12H16N2O2
